US04470977
A solution of 0.5 g (0.0027 mole) of 3-chloro-2-methoxybenzoic acid in 10 mL of thionyl chloride was heated under reflux for 2 hours and then evaporated to yield 3-chloro-2-methoxybenzoic acid chloride. The residual oil was dissolved in 20 mL of methlene chloride containing 0.4 g (0.003 mole) of 2-aminomethyl-1-ethyl-pyrrolidine and 1 mL of triethylamine. After 1 hour at room temperature, the solution was evaporated and treated with water. The oil which precipitated was taken up in methylene chloride, dried and evaporated. The residue was crystallized from ether-pentane to obtain 0.55 g (69%) of the invention compound, m.p. 55°-58°.

reactant | 3-chloro-2-methoxybenzoic acid | 0.0027 mole, 0.5 g | ClC=1C(=C(C(=O)O)C=CC1)OC | C8H7ClO3
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-2-methoxybenzoic acid chloride | ClC=1C(=C(C(=O)Cl)C=CC1)OC | C8H6Cl2O2
